US04965270
2-Amino-9-(2,2-dimethyl-1,3-dioxan-5-ylmethoxy)-6-methoxypurine.
6-Chloro-9-(2,2-dimethyl-1,3-dioxan-5-ylmethoxy)-2-formamidopurine (0.5 g, 1.46 mmol) in 1.2M sodium methoxide in methanol (3.38 ml) and methanol (5 ml) was heated at reflux temperature for 1.5 hours and then cooled. Acetic acid (0.16 ml) was added and the solution evaporated to dryness. The residue was suspended in water and extracted with ethyl acetate (2×50 ml). The combined ethyl acetate extracts were washed with water, dried (magnesium sulphate) and evaporated under reduced pressure. Chromatography on silica gel (eluted with chloroform-ethanol, 100:1) gave the title compound (310 mg, 69%). 1R: υmax (KBr) 3397, 3208, 1640, 1616, 1581, 1480, 1390 cm-1. 1H NMR: δH [(CD3)2SO] 1.32(3H,s,CH3), 1.35(3H,s,CH3), 2.00(1H,m,CH), 3.77(2H,dd, J=11.8, 6.1 Hz, 2×H(ax), 3.9 (3H,s,OCH3), 3.99 (2H,dd,J=11.8, 4.1 Hz, 2×H(eq)), 4.36(2H,d, J=6.8 Hz, CH2ON), 6.60(2H,br.s, D2O exchangeable, NH2), 8.14(1H,s,H-8). Found: C, 49.30; H, 6.12; N, 22.03%; M+ 309.1455. C13H19N5O4 0.5H2O requires: C, 49.04; H, 6.34; N, 22.00%; M+ 309.1437.

reactant | 6-Chloro-9-(2,2-dimethyl-1,3-dioxan-5-ylmethoxy)-2-formamidopurine | 1.46 mmol, 0.5 g | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCC1COC(OC1)(C)C | C13H16ClN5O4
reactant | Acetic acid | 0.16 ml | C(C)(=O)O | C2H4O2
solvent | sodium methoxide | 1.2M | C[O-].[Na+]
solvent | methanol | 3.38 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 2-Amino-9-(2,2-dimethyl-1,3-dioxan-5-ylmethoxy)-6-methoxypurine | 310 mg, 69% | NC1=NC(=C2N=CN(C2=N1)OCC1COC(OC1)(C)C)OC | C13H19N5O4
